US05932601
In substantially the same manner as in Working Example 11, 3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]cinnamaldehyde was condensed with 2,4-oxazolidinedione. The condensate was subjected to catalytic hydrogenation to yield 5-[3-[3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]propyl-2,4-oxazolidinedione, which was recrystallized from ethyl acetate-hexane to give colorless prisms, m.p.124-125° C.

reactant | 3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]cinnamaldehyde | FC=1C=C(C=CC=O)C=CC1OCCN(C1=NC=CC=C1)C | C17H17FN2O2
reactant | 2,4-oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | 3-[3-fluoro-4-[2-[N-methyl-N-(2-pyridyl)amino]ethoxy]phenyl]propyl-2,4-oxazolidinedione | FC=1C=C(C=CC1OCCN(C1=NC=CC=C1)C)CCCN1C(OCC1=O)=O | C20H22FN3O4
